US06828460B2
(±)-3-(2,4-Dihydroxyphenyl)cyclohexanone Oxime
(±)-3-(2,4-Dihydroxyphenyl)cyclohexanone (13 mg), hydroxylamine hydrochloride (0.0065 g), and triethylamine (16 μl) were heated at 80° C. in DMF (3 ml). After 3 hr, the reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by flash column chromatography (SiO2, petroleum ether/ethyl acetate 3:2 v/v) to furnish the title compound as a white solid (12 mg, 86%). δH(CD3OD) 1.4-2.0 (6H, overlapping m), 2.10 (0.5H, m), 2.20 (0.5H, m), 2.35 (0.5H, m), 2.46 (0.5H, m), 2.94 (1H, m), 6.22-6.26 (2H, overlapping m), 6.92-6.95 (1H, overlapping m); m/z (ES+) 222 (M+H)−.

reactant | (±)-3-(2,4-Dihydroxyphenyl)cyclohexanone | 13 mg | OC1=C(C=CC(=C1)O)C1CC(CCC1)=O | C12H14O3
reactant | hydroxylamine hydrochloride | 0.0065 g | Cl.NO
reactant | triethylamine | 16 μl | C(C)N(CC)CC | C6H15N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | (±)-3-(2,4-Dihydroxyphenyl)cyclohexanone Oxime | 12 mg, 86% | OC1=C(C=CC(=C1)O)C1CC(CCC1)=NO | C12H15NO3
